US04061854
A mixture of 11-cyano-9,10-dihydro-9,10-ethanoanthracene (4.6 g), ethanolamine (1.8 g) and zinc acetate (250 mg) is stirred at 130° C for 5 hours. The reaction mixture is dissolved in benzene and passed through a column of 10% hydrated alumina. The eluate is evaporated to remove the solvent, and the residue is recrystallized from ether to give 11-(2-oxazolin-2-yl)-9,10-dihydro-9,10-ethanoanthracene (3.3 g) as crystals melting at 155° to 156° C. IR (KRr), 1655 cm-1 (O--C=N).

reactant | 11-cyano-9,10-dihydro-9,10-ethanoanthracene | 4.6 g | C(#N)C1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H13N
reactant | ethanolamine | 1.8 g | C(O)CN | C2H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | zinc acetate | 250 mg | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | 11-(2-oxazolin-2-yl)-9,10-dihydro-9,10-ethanoanthracene | 3.3 g | O1C(=NCC1)C1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C19H17NO
